US05212320
Ethyl 4-[3-[4-[(benzyloxycarbonyl)(4-isobutylphenyl)methoxy]benzoyl]indol-1-yl]butyrate (0.36 g) was dissolved in a mixture of 1,4-dioxane (10 ml) and ethanol (10 ml), and 10% palladium on carbon (0.2 g) was added. The mixture was stirred under hydrogen atmosphere at 25° C. for 2 hours. Removal of the catalyst and evaporation of the solvent gave ethyl 4-[3-[4-[(carboxy)(4-isobutylphenyl)methoxy]benzoyl]indol-1-yl]butyrate (0.23 g) as powder.

reactant | Ethyl 4-[3-[4-[(benzyloxycarbonyl)(4-isobutylphenyl)methoxy]benzoyl]indol-1-yl]butyrate | 0.36 g | C(C1=CC=CC=C1)OC(=O)C(OC1=CC=C(C(=O)C2=CN(C3=CC=CC=C23)CCCC(=O)OCC)C=C1)C1=CC=C(C=C1)CC(C)C | C40H41NO6
solvent | 1,4-dioxane | 10 ml | O1CCOCC1 | C4H8O2
solvent | ethanol | 10 ml | C(C)O | C2H6O
catalyst | palladium on carbon | 0.2 g | [Pd] | Pd
product | ethyl 4-[3-[4-[(carboxy)(4-isobutylphenyl)methoxy]benzoyl]indol-1-yl]butyrate | 0.23 g | C(=O)(O)C(OC1=CC=C(C(=O)C2=CN(C3=CC=CC=C23)CCCC(=O)OCC)C=C1)C1=CC=C(C=C1)CC(C)C | C33H35NO6
